### PR TITLE
[Merged by Bors] - chore(test/*): quiet unusedVariables

### PR DESCRIPTION
**Pull request by adomani**
~~Quiets the `unused_variables` linter in the appropriate tests.~~
(Introduces and) prefixes unused variables with `_` in test files.

Affected files:
```
test/congrm.lean
test/interval_cases.lean
test/LibrarySearch/IsCompact.lean
test/Set.lean
test/slim_check.lean
```

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/noisy.20tests)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/LibrarySearch/IsCompact.lean [hunk 1]
```diff
@@ -2,6 +2,6 @@ import Mathlib.Topology.Instances.Real
 import Mathlib.Topology.Algebra.Order.Compact
 import Mathlib.Tactic.LibrarySearch
 
-example (f : ℝ → ℝ) {K : Set ℝ} (hK : IsCompact K) : ∃ x ∈ K, ∀ y ∈ K, f x ≤ f y := by
+example (f : ℝ → ℝ) {K : Set ℝ} (_hK : IsCompact K) : ∃ x ∈ K, ∀ y ∈ K, f x ≤ f y := by
   fail_if_success exact?
   apply? -- Verify that this includes: `refine IsCompact.exists_forall_le hK ?_ ?_`
```
Comment (eric-wieser) [inline test/LibrarySearch/IsCompact.lean:7]:
```suggestion
  apply? -- Verify that this includes: `refine IsCompact.exists_forall_le _hK ?_ ?_`
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
